US05250498
3.2 g (0.03 mol) of 2-amino-5-methylpyridine are dissolved in 100 ml of acetonitrile, and 5 g (0.03 mol) of 2-chloro-5-chloromethylthiophene are added. The mixture is stirred for 8 hours at 60° C. and for 18 hours at room temperature. The solid which has formed is filtered off with suction and dried. 1.6 g (20% of theory) of N-(5-chlorothien-2-yl-methyl)-5-methyl-2-iminopyridine hydrochloride of melting point 208° C. are obtained.

reactant | 2-amino-5-methylpyridine | 0.03 mol, 3.2 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | 2-chloro-5-chloromethylthiophene | 0.03 mol, 5 g | ClC=1SC(=CC1)CCl | C5H4Cl2S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-(5-chlorothien-2-yl-methyl)-5-methyl-2-iminopyridine hydrochloride | 1.6 g, 20% | Cl.ClC1=CC=C(S1)CN1C(C=CC(=C1)C)=N | InChI=1S/C11H11ClN2S.ClH/c1-8-2-5-11(13)14(6-8)7-9-3-4-10(12)15-9;/h2-6,13H,7H2,1H3;1H
